US07569599B2
(3S)-1-Diphenylmethyl-3-hydroxypyrrolidine
Sodium borohydride (0.235 mg) was suspended in tetrahydrofuran (2.0 mL) in an argon flow, and the suspension was cooled with ice. Optically active α-pinene (0.63 mL) and boron trifluoride-ether complex (0.25 mL) were added dropwise to the suspension, and the mixture was stirred for 12 hours. 1-Diphenylmethyl-3-pyrroline (0.24 g) was added to the reaction mixture, and the resultant mixture was allowed to react for 9 hours. Thereafter, 30% aqueous hydrogen peroxide (2 mL) and 6 mol/L aqueous sodium hydroxide (2 mL) were added dropwise to the reaction mixture. After 3 h, the reaction mixture was extracted with methylene chloride, and the formed organic layer was dried over sodium sulfate. The drying agent was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield crystalline residue. The residue was subjected to silica gel chromatography, to thereby give the target compound (0.200 g, yield 79%). HPLC analysis (through use of a Daicel Chiral Pack AD-RH) of the thus-obtained compound indicates that the compound has an optical purity of 72% ee.

reactant | Sodium borohydride | 0.235 mg | [BH4-].[Na+]
reactant | α-pinene | 0.63 mL | CC1=CCC2CC1C2(C)C | C10H16
reactant | 1-Diphenylmethyl-3-pyrroline | 0.24 g | C1(=CC=CC=C1)C(N1CC=CC1)C1=CC=CC=C1 | C17H17N
reactant | hydrogen peroxide | 2 mL | OO | H2O2
reactant | sodium hydroxide | 6 mol/L, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | (3S)-1-Diphenylmethyl-3-hydroxypyrrolidine | 0.200 g, yield 79% | C1(=CC=CC=C1)C(N1C[C@H](CC1)O)C1=CC=CC=C1 | C17H19NO
